US09102674B2
Step B: 7-((3-Chlorobenzyl)oxy)-N-methylquinoline-3-carboxamide.
To a solution of 7-((3-chlorobenzyl)oxy)quinoline-3-carboxylic acid (50 mg, 0.16 mmol) in DCM (1.5 mL) was added oxalyl chloride (0.042 mL, 0.48 mmol) followed by 1 drop of DMF. After 30 minutes, methylamine (2M in THF, 1 mL, 2 mmol) was added to the reaction. The reaction was stirred for 14 h. The crude reaction was loaded directly onto a column and purification (FCC, SiO2, 0-10%, MeOH/DCM) afforded the title compound as a white solid (19 mg, 37%). 1H NMR (400 MHz, CDCl3) δ 9.17 (d, J=2.3 Hz, 1H), 8.53 (d, J=2.0 Hz, 1H), 7.82 (d, J=9.0 Hz, 1H), 7.49 (d, J=2.7 Hz, 2H), 7.38-7.31 (m, 4H), 6.28-6.22 (m, 1H), 5.21 (s, 2H), 3.10 (d, J=4.7 Hz, 3H). [M+H]=327.2.

reactant | 7-((3-chlorobenzyl)oxy)quinoline-3-carboxylic acid | 0.16 mmol, 50 mg | ClC=1C=C(COC2=CC=C3C=C(C=NC3=C2)C(=O)O)C=CC1 | C17H12ClNO3
reactant | oxalyl chloride | 0.48 mmol, 0.042 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 2 mmol, 2M, 1 mL | CN | CH5N
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 7-((3-Chlorobenzyl)oxy)-N-methylquinoline-3-carboxamide | 19 mg, 37% | ClC=1C=C(COC2=CC=C3C=C(C=NC3=C2)C(=O)NC)C=CC1 | C18H15ClN2O2
